US06648954B2
Diketopyrrolopyrrole Pigment
20 g of C.I. pigment red 264 (in which the content of metal ions having a valence of at least 2 was 520 ppm), 60 g of the same aqueous dispersion of the pigment derivative (n) as that obtained in Example 45 and 60 g of deionized water were mixed, 11 g of 2% by weight triethanolamine was added so as to adjust the neutralization ratio of the pigment derivative to 100%, and the mixture was dispersed with a paint shaker in the presence of zirconia beads as media for approximately 7 hours, to obtain a pigment dispersion.

reactant | C.I. pigment red 264 | 20 g | C1=CC=C(C=C1)C2=CC=C(C=C2)C3=C4C(=C(NC4=O)C5=CC=C(C=C5)C6=CC=CC=C6)C(=O)N3 | C30H20N2O2
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | water | 60 g | O | H2O
product | Diketopyrrolopyrrole | O=C1C(N=C2C=CN=C21)=O | C6H2N2O2
